US09340556B2
To a suspension of 1-ethyl-7,8-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (22 g, 44.9 mmol) in Tetrahydrofuran (THF) (300 mL) was added TEA (6.89 mL, 49.4 mmol) and isobutyl chloroformate (6.49 mL, 49.4 mmol). The resulting mixture was stirred at r.t. for 1 h. Then the mixture was cooled down to −78° C. and a solution of DIBAL-H (90 mL, 135 mmol) in toluene (1.5 M) was added. The mixture was stirred at the same temperature for 1.5 h, LCMS indicated completion of the reaction. The reaction was quenched with sat. NH4Cl (aq.), and subsequently warmed up to r.t. concentrated, diluted with sat. NH4Cl and extracted with dichloromethane twice. The organic phase was filtered through Celite to remove gummy precipitate, and was then washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford 1-ethyl-3-(hydroxymethyl)-7,8-bis((4-methoxybenzyl)oxy)quinolin-4(1H)-one (20 g, 23.55 mmol, 52.4% yield) as yellow solid, which was used in the next oxidation step without further purification. LCMS: (M+H)+: 476.3.

reactant | 1-ethyl-7,8-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 44.9 mmol, 22 g | C(C)N1C=C(C(C2=CC=C(C(=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C(=O)O | C28H27NO7
reactant | isobutyl chloroformate | 49.4 mmol, 6.49 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | DIBAL-H | 135 mmol, 90 mL | CC(C)C[AlH]CC(C)C
solvent | Tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | toluene | 1.5 M | C1(=CC=CC=C1)C | C7H8
product | 1-ethyl-3-(hydroxymethyl)-7,8-bis((4-methoxybenzyl)oxy)quinolin-4(1H)-one | 23.55 mmol, 20 g, 52.4% yield | C(C)N1C=C(C(C2=CC=C(C(=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)CO | C28H29NO6
